US07732452B2
Rac-4-[2-(4-tertButyl-phenoxy)-propionylamino]-thiophene-3-carboxylic acid
In analogy to Example 2, the title compound was prepared using rac-4-(2-chloro-propionylamino)-thiophene-3-carboxylic acid methyl ester and 4-tert-butylphenol. MS (m/e): 346.2 (M−H).

reactant | rac-4-(2-chloro-propionylamino)-thiophene-3-carboxylic acid methyl ester | COC(=O)C1=CSC=C1NC(C(C)Cl)=O | C9H10ClNO3S
reactant | 4-tert-butylphenol | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
product | Rac-4-[2-(4-tertButyl-phenoxy)-propionylamino]-thiophene-3-carboxylic acid | C(C)(C)(C)C1=CC=C(OC(C(=O)NC=2C(=CSC2)C(=O)O)C)C=C1 | C18H21NO4S
